US07790728B2
5-(3-Chloropyridin-4-yl)-6-(3-fluorophenyl)pyrazin-2-amine
A microwave oven reactor was charged with 5-bromo-6-(3-fluorophenyl)pyrazin-2-amine (Preparation 1, 0.3 g, 1.11 mmol), (3-chloropyridin-4-yl)boronic acid (212 mg, 1.03 mmol), [1,1′-bis(diphenylphosphino)ferrocene]palladium(II)dichloride dichloromethane complex (1:1) (39 mg, 0.047 mmol), dioxane (8 mL) and a 1.2M aqueous solution of cesium carbonate was added (1.9 mL, 2.39 mmol). The mixture was heated to 150° C. for 10 min in the microwave oven, then cooled, partitioned between water and ethyl acetate, the aqueous phase extracted twice with ethyl acetate, the organic layers washed with brine, dried (MgSO4) and evaporated. Flash chromatography (dichloromethane to dichloromethane/methanol 90:10) furnished the title compound as a yellowish solid (78 mg, 39%).

reactant | 5-bromo-6-(3-fluorophenyl)pyrazin-2-amine | 1.11 mmol, 0.3 g | BrC=1N=CC(=NC1C1=CC(=CC=C1)F)N | C10H7BrFN3
reactant | (3-chloropyridin-4-yl)boronic acid | 1.03 mmol, 212 mg | ClC=1C=NC=CC1B(O)O | C5H5BClNO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 5-(3-Chloropyridin-4-yl)-6-(3-fluorophenyl)pyrazin-2-amine | 78 mg, 39% | ClC=1C=NC=CC1C=1N=CC(=NC1C1=CC(=CC=C1)F)N | C15H10ClFN4
